US04120964
(±)-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-6-isobutyl-4H-dibenzo[de,g]quinolin-4-ol;
(±)-5,6,6a,7-tetrahydro-1,2,9,10-tetraethoxy-6-n-pentyl-4H-dibenzo[de,g]quinolin-4-ol; (±)-5,6,6a,7-tetrahydro-1,2,3,10-tetramethoxy-6-isopropyl-4H-dibenzo[de,g]quinolin-4ol; (±)-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-6-cyclopropylmethyl-4H-dibenzo[de,g]quinolin-4-ol; (±)-5,6,6a,7-tetrahydro-1,2-diethoxy-9,10-dimethoxy-6-cyclobutylmethyl-4H-dibenzo[de,g]quinolin-4-ol.

reactant | (±)-5,6,6a,7-tetrahydro-1,2,9,10-tetraethoxy-6-n-pentyl-4H-dibenzo[de,g]quinolin-4-ol | C(C)OC1=C(C=C2C(CN(C3CC4=C(C1=C23)C=C(C(=C4)OCC)OCC)CCCCC)O)OCC | C29H41NO5
reactant | (±)-5,6,6a,7-tetrahydro-1,2,3,10-tetramethoxy-6-isopropyl-4H-dibenzo[de,g]quinolin-4ol | COC1=C(C(=C2C(CN(C3CC4=C(C1=C23)C=C(C=C4)OC)C(C)C)O)OC)OC | C23H29NO5
reactant | (±)-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-6-cyclopropylmethyl-4H-dibenzo[de,g]quinolin-4-ol | COC1=C(C=C2C(CN(C3CC4=C(C1=C23)C=C(C(=C4)OC)OC)CC4CC4)O)OC | C24H29NO5
reactant | (±)-5,6,6a,7-tetrahydro-1,2-diethoxy-9,10-dimethoxy-6-cyclobutylmethyl-4H-dibenzo[de,g]quinolin-4-ol | C(C)OC1=C(C=C2C(CN(C3CC4=C(C1=C23)C=C(C(=C4)OC)OC)CC4CCC4)O)OCC | C27H35NO5
product | (±)-5,6,6a,7-tetrahydro-1,2,9,10-tetramethoxy-6-isobutyl-4H-dibenzo[de,g]quinolin-4-ol | COC1=C(C=C2C(CN(C3CC4=C(C1=C23)C=C(C(=C4)OC)OC)CC(C)C)O)OC | C24H31NO5
